US04070366
2,4-dimethyl-3-acetyl-5-ethyl-pyrrole
A solution of 2,4-dimethyl-3-acetyl-pyrrole (548 mg) in 10 ml of aqueous hydriodic acid containing a little solid phosphonium iodide was cooled in an ice-salt bath. Paraldehyde (0.35 ml) was added and the solution was stirred for 41/2 hrs. without further cooling. The solution was then added to 100 ml of ice water to precipitate the light brown product (385 mg, 58%), m.p. 153°-160° C. For analysis, it was sublimed in vacuo then recrystallized from ether (thimble) as grey needles, m.p. 163° C. after changing to plates at 140°. Anal. Calc. for C10H15O: C; 72.69, H, 9.15; N, 8.48. Found: C, 72.67; H, 8.88; N, 8.69.

reactant | 2,4-dimethyl-3-acetyl-pyrrole | 548 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | phosphonium iodide | [I-].[PH4+]
reactant | Paraldehyde | 0.35 ml | CC1OC(OC(O1)C)C | C6H12O3
solvent | hydriodic acid | 10 ml | I | HI
product | 2,4-dimethyl-3-acetyl-5-ethyl-pyrrole | CC=1NC(=C(C1C(C)=O)C)CC | C10H15NO
